US09126950B2
In a 50 mL, 3-neck RBF equipped with a magnetic stirrer, calcium chloride guard tube and thermo pocket was charged N4-(3-aminophenyl)-5-fluoro-N2-(4-((2-methoxyethoxy)methoxy)phenyl)pyrimidine-2,4-diamine (0.380 g) in DCM (10 mL) and was cooled to −30° C. To the reaction mixture was slowly added acryloyl chloride solution in DCM (0.090 g in 5.0 mL DCM) and the reaction mixture was stirred at −30° C. for approx. 40 minutes. The reaction was monitored on TLC using chloroform:methanol (9.6:0.4) as mobile phase. The reaction mixture was poured into water (100 mL) and basified using sodium bicarbonate. The reaction mixture was extracted with DCM (25 mL×2) and the combined organic layers were washed with 50 mL brine solution. The organic layer was dried over sodium sulfate and concentrated completely under reduce pressure at 40° C. The crude product was purified by column chromatography eluting in 35% of ethyl acetate in hexane to give 0.36 g of N-(3-((5-fluoro-2-((4-((2-methoxyethoxy)methoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)acrylamide.

reactant | N4-(3-aminophenyl)-5-fluoro-N2-(4-((2-methoxyethoxy)methoxy)phenyl)pyrimidine-2,4-diamine | 0.380 g | NC=1C=C(C=CC1)NC1=NC(=NC=C1F)NC1=CC=C(C=C1)OCOCCOC | C20H22FN5O3
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5.0 mL, 0.090 g | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | N-(3-((5-fluoro-2-((4-((2-methoxyethoxy)methoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)acrylamide | 0.36 g | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)OCOCCOC)NC=1C=C(C=CC1)NC(C=C)=O | C23H24FN5O4
